US07479493B2
4-Dimethylaminomethyl-N-(2-methylamino-ethyl)-3-(pyridin-3-yloxy)-benzamide
To a solution of {2-[4-dimethylaminomethyl-3-(pyridin-3-yloxy)-benzoylamino]-ethyl}-methyl-carbamic acid tert-butylester (250 mg, 0.58 mmol) in CH2Cl2 (3 mL) was added trifluoroacetic acid (1 mL). The reaction was allowed to stir at rt for 16 h and then concentrated under reduced pressure. The residue was dissolved in CH2Cl2 (50 mL), washed with 1 M NaOH (15 mL), dried (Na2SO4), and concentrated under reduced pressure. FCC purification (MeOH/CH2Cl2) provided the desired product (0.13 g, 68%) as a yellow oil. MS (ESI): m/z found, 329.2 [M+H]+.

reactant | {2-[4-dimethylaminomethyl-3-(pyridin-3-yloxy)-benzoylamino]-ethyl}-methyl-carbamic acid tert-butylester | 0.58 mmol, 250 mg | C(C)(C)(C)OC(N(C)CCNC(C1=CC(=C(C=C1)CN(C)C)OC=1C=NC=CC1)=O)=O | C23H32N4O4
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-Dimethylaminomethyl-N-(2-methylamino-ethyl)-3-(pyridin-3-yloxy)-benzamide | 0.13 g, 68% | CN(C)CC1=C(C=C(C(=O)NCCNC)C=C1)OC=1C=NC=CC1 | C18H24N4O2
